US08624034B2
Step E) (2R)-4-{5-Fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
The title compound (115 mg, 65.8%) was prepared as an off-white solid from (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid (144 mg, 0.31 mmol) using a procedure analogous to that described for (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide, Example 26, Step D. MS (LCMS) m/z 566.2 (M−1).

reactant | (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid | 0.31 mmol, 144 mg | FC=1C(=CC(N(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C)=O)C1=CC(=CC=C1)OC=1SC=CN1 | C20H19FN2O6S2
reactant | (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | FC=1C(=CC(N(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)N1N=CC=N1 | C24H28FN5O6S
product | (2R)-4-{5-Fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 115 mg, 65.8% | FC=1C(=CC(N(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)C1=CC(=CC=C1)OC=1SC=CN1 | C25H28FN3O7S2
